US04604128
A mixture of benzylchloride (8.8 g), 4-(2-hydroxy phenyl)-but-3-en-2-one (11.4 g) and anhydrous potassium carbonate (11.0 g) in methyl ethyl ketone (100 ml) was stirred and heated under reflux for 5 hours. The mixture was poured into water (300 ml) and extracted with chloroform (200 ml). The chloroform extracts were washed with dilute sodium hydroxide solution and then dried over magnesium sulphate and evaporated to give 4-(2-benzyloxyphenyl)-but-3-en-2-one (15 g) as a pale yellow oil.

reactant | benzylchloride | 8.8 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-(2-hydroxy phenyl)-but-3-en-2-one | 11.4 g | OC1=C(C=CC=C1)C=CC(C)=O | C10H10O2
reactant | potassium carbonate | 11.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 4-(2-benzyloxyphenyl)-but-3-en-2-one | 15 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC(C)=O | C17H16O2
